US07572809B2
Similar procedure as described in example 10 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and propan-2-ol to give (1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 299(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
solvent | propan-2-ol | CC(C)O | C3H8O
product | (1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C16H18N4O2
